US07173028B2
N,N-dimethyl-2-[methyl-(2-piperidin-4-yl-ethyl)-amino]-acetamide
Of the crude N,N-dimethyl-2-[methyl-(2-pyridine-4-yl-ethyl)-amino]-acetamide, 44 g are dissolved in 500 ml of glacial acetic acid and hydrogenated with 4 g of PtO2 at ambient temperature under 3 bar H2. After the catalyst has been removed by suction filtering the filtrate is evaporated down. The residue is made alkaline with 50% potassium hydroxide solution while cooling with ice and the product obtained is taken up in ether. The ether solution is dried over sodium sulphate, filtered and the solution is evaporated down. The product is left as a yellow oil. Yield: 42 g

reactant | N,N-dimethyl-2-[methyl-(2-pyridine-4-yl-ethyl)-amino]-acetamide | CN(C(CN(CCC1=CC=NC=C1)C)=O)C | C12H19N3O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
catalyst | PtO2 | 4 g | O=[Pt]=O
product | N,N-dimethyl-2-[methyl-(2-piperidin-4-yl-ethyl)-amino]-acetamide | CN(C(CN(CCC1CCNCC1)C)=O)C | C12H25N3O
